US04833155
Synthesis of N-methyl-2,4,5-trichloro-3-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole
2,4,5-Trichloro-3-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole (3.3 g) dissolved in DMF (35 ml) was treated with sodium hydride (50%, 0.432 g) in 4 portions, under nitrogen with stirring at room temperature. After 1 hour at room temperature, 0.56 ml of methyl iodide was added, dropwise, via microsyringe. After stirring 5 minutes more, the reaction mixture was poured into water (300 ml). The organic layer was separated, dried and evaporated to dryness. The residue was purified on silica gel, eluting with hexane:ethyl acetate (80:20). The pure product was recrystallized from ether-pentane to give 2.73 g of the title compound (mp 155°-156° C.).

reactant | 2,4,5-Trichloro-3-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole | 3.3 g | ClC=1NC(=C(C1C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)Cl)Cl | C19H22Cl3NO2
reactant | sodium hydride | 0.432 g | [H-].[Na+]
reactant | methyl iodide | 0.56 ml | CI | CH3I
reactant | water | 300 ml | O | H2O
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | N-methyl-2,4,5-trichloro-3-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole | 2.73 g | CN1C(=C(C(=C1Cl)Cl)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)Cl | C20H24Cl3NO2
